US06420375B1
Preparation of 4-hydroxy-1-(2-naphthyl)-1-butanone
To a cooled (−78° C.) solution of 2-bromonaphthalene (10.77 g) in THF (150 ml) was added n-BuLi in hexane (1.65M, 36 ml) and the mixture was stirred at −78° C. for 30 minutes. To the solution was added γ-butyrolactone (25 ml) and the mixture was stirred at −78° C. for 1 minute. Aqueous solution of NH4Cl was added and the mixture was extracted with ethyl acetate. The extract was washed with aqueous NH4Cl solution, water and brine, dried and concentrated. The residue was chromatographed on silica gel (hexane:ethyl acetate=3:1) followed by recrystallization from cyclohexane-ethyl acetate to give the titled compound (6.71 g) as a colorless solid.

reactant | 2-bromonaphthalene | 10.77 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | n-BuLi | [Li]CCCC
reactant | γ-butyrolactone | 25 ml | C1(CCCO1)=O | C4H6O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.65M, 36 ml | CCCCCC | C6H14
product | 4-hydroxy-1-(2-naphthyl)-1-butanone | 6.71 g | OCCCC(=O)C1=CC2=CC=CC=C2C=C1 | C14H14O2
